US04587341
A. 2,4-diamino-5-(3-methoxy-4-aminobenzyl)pyrimidine
A solution of 6.30 g (0.045 mol) of 2,4-diamino-5-hydroxymethylpyrimidine, 6.15 g (0.05 mol) of o-anisidine and 3.75 ml of concentrated hydrochloric acid in 55 ml of glacial acetic acid was heated to reflux for 6 hours. The mixture was stirred at room temperature overnight. The solvent was removed under vaccum and the residue was taken up in water, made basic with ammonium hydroxide, and the aqueous solution was extracted with dichloromethane:methanol/3:1. The organic layers were combined, dried and concentrated to a purple glass. This was purified on a silica gel column to give 7.81 g of the 4-N-acetylated product.

reactant | 2,4-diamino-5-hydroxymethylpyrimidine | 0.045 mol, 6.30 g | NC1=NC=C(C(=N1)N)CO | C5H8N4O
reactant | o-anisidine | 0.05 mol, 6.15 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | hydrochloric acid | 3.75 ml | Cl | ClH
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
product | 2,4-diamino-5-(3-methoxy-4-aminobenzyl)pyrimidine | 7.81 g | NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)N)OC | C12H15N5O
